US04507513
Nickel(II) acetylacetonate has affected other cross-coupling reactions, however. Mitchell and Yan, Can. J. Chem., 58, 2584 (1980), reported yields of 35-60%, 3,3"-dichloro-2,2"-dimethyl-o-terphenyl in the cross-coupling of 3-chloro-2-methylphenylmagnesium chloride with o-dibromobenzene in tetrahydrofuran using equivalent amounts of the reactants and 6 mole percent nickel(II) acetylacetonate based on the Grignard reagent. Ibuki, et al., Bull. Chem. Soc. Japan, 53, 821 (1980), reported cross-coupling two-fold excess phenylmagnesium bromide with 2-iodobiphenyl in the presence of 1.0% nickel(II) acetylacetonate based on the limiting reagent, obtaining a 78-80% yield of o-terphenyl. Clough, et al., J. Org. Chem., 41, 2256 (1976), reported cross-coupling an eight-fold excess of phenylmagnesium iodide with 1,8-diiodonaphthalene using 0.9 mole percent nickel(II) acetylacetonate based on the limiting reagent, producing 1,8-diphenylnaphthalene in 70% yield, while Corriu and Masse, J. Chem. Soc. Chem. Comm., 144 (1972), reported yields of 40 to more than 80% in cross-coupling reactions utilizing 0.1-1 percent nickel(II) acetylacetonate with respect to Grignard reagent.

reactant | phenylmagnesium bromide | C1(=CC=CC=C1)[Mg]Br
reactant | 2-iodobiphenyl | IC1=C(C=CC=C1)C1=CC=CC=C1 | C12H9I
catalyst | nickel(II) acetylacetonate | C/C(=C/C(=O)C)/[O-].C/C(=C/C(=O)C)/[O-].[Ni+2]
product | o-terphenyl | 78-80% yield | C1(=CC=CC=C1)C=1C(=CC=CC1)C1=CC=CC=C1 | C18H14
